US06630589B1
7-((3-pyrrolidino-1,4-naphthalenedion-2-yl)amino)-4-methylcoumarin (MES 10567)
2,3-dichloro-1,4-naphthoquinone (0.5 mmol, 114 mg) was dissolved in anhydrous DMF (1.5 mL) in a 5 mL vial. 7-Amino-4-methylcoumarin (0.5 mmol 88 mg) and triethylamine (0.5 mmol, 70 μL) were added. The solution was heated at 100°C. for 16 hr. Pyrrolidine (2 mmol, 0.17 mL) was added. The solution was heated at 100° C. for 16 hr. The excess volatile amines were removed under vacuum. The residue was dissolved in 3 mL acetonitrile containing 1% TFA. The crude product (1.0 mL) was purified with HPLC to give a dark purple solid (26.3 mg). 1H NMR (CDCl3): 8.09-7.98 (m, 2H), 7.64-7.55 (m, 2H), 7.45 (d, 1H, J=8.6 Hz), 6.74 (d, 1H, J=8.6 Hz), 6.31 (s, 1H), 6.09 (s, 1H), 3.63-3.54 (m, 4H), 2.36 (s, 3H), 1.78-1.69 (m, 4H) ppm.

reactant | 2,3-dichloro-1,4-naphthoquinone | 0.5 mmol, 114 mg | ClC=1C(C2=CC=CC=C2C(C1Cl)=O)=O | C10H4Cl2O2
reactant | 7-Amino-4-methylcoumarin | 0.5 mmol, 88 mg | NC1=CC=C2C(=CC(OC2=C1)=O)C | C10H9NO2
reactant | triethylamine | 0.5 mmol, 70 μL | C(C)N(CC)CC | C6H15N
reactant | Pyrrolidine | 2 mmol, 0.17 mL | N1CCCC1 | C4H9N
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
product | 7-((3-pyrrolidino-1,4-naphthalenedion-2-yl)amino)-4-methylcoumarin | 26.3 mg | N1(CCCC1)C1=C(C(C2=CC=CC=C2C1=O)=O)NC1=CC=C2C(=CC(OC2=C1)=O)C | C24H20N2O4
